US05686482
A 2.00 g portion of 2-methoxy-4-methylbenzoic acid was dissolved in 10 ml of sulfuric acid. With stirring at 0° C., 0.88 ml of concentrated nitric acid was added thereto dropwise. After 4 hours of stirring at room temperature, and ice water was added. The thus formed crystals were collected by filtration, dried under a reduced pressure and then purified by column chromatography (chloroform:methanol=30:1) to give 1.32 g of 2-methoxy-4-methyl-5-nitrobenzoic acid as yellow crystals.

reactant | 2-methoxy-4-methylbenzoic acid | COC1=C(C(=O)O)C=CC(=C1)C | C9H10O3
reactant | nitric acid | 0.88 ml | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
product | 2-methoxy-4-methyl-5-nitrobenzoic acid | 1.32 g | COC1=C(C(=O)O)C=C(C(=C1)C)[N+](=O)[O-] | C9H9NO5
